US06960598B2
A mixture of 2-bromopyridine (6.37 g, 35 mmol), 2-fluorobenzeneboronic acid (6.86 g, 49 mmol) and 2 M sodium carbonate solution (35 mL, 70 mmol) in THF (70 mL) was degassed with nitrogen for 20 min. Tetrakis(triphenyl-phosphine)palladium(0) (1.21 g, 1.1 mmol) was added, and the mixture was stirred at reflux under nitrogen for 36 h. After cooling to room temperature, the mixture was partitioned between ethyl acetate and sodium carbonate. The organic phase was washed with water and then with saturated sodium hydrogencarbonate solution, was dried over magnesium sulfate and then was absorbed on to silica gel. Purification by flash chromatography on silica gel, eluting with isohexane (+0.5% triethylamine and 0.5% MeOH) on a gradient of diethyl ether (5% to 20%) afforded 2-(2-fluorophenyl)pyridine as a yellow oil which crystallised upon standing (5.5 g, 91%). δH (400 MHz, CDCl3) 7.13-7.19 (1H, m), 7.24-7.28 (2H, m), 7.35-7.41 (1H, m), 7.73-7.81 (2H, m), 7.97 (1H, ddd, J 8, 8 and 2), 8.72-8.74 (1H, m); m/z (ES+) 174 (M++H).

reactant | 2-bromopyridine | 35 mmol, 6.37 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 2-fluorobenzeneboronic acid | 49 mmol, 6.86 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 70 mmol, 2 M, 35 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 2-(2-fluorophenyl)pyridine | FC1=C(C=CC=C1)C1=NC=CC=C1 | C11H8FN
